US07084176B2
The above product (1.3 g) is dissolved in ethylene glycol dimethyl ether (10 ml), and thereto are added 3-nitrophenylboronic acid (1.3 g), tetrakis(triphenylphosphine)palladium (0) (330 mg), lithium chloride (720 mg) and 2M aqueous sodium carbonate (8 ml), and the mixture is heated under reflux for 3 hours. To the mixture is added ethyl acetate, and the organic layer is washed with water, and the solvent is evaporated under reduced pressure. The residue is purified by silica gel column chromatography (eluent: gradient from 0% to 100% hexane/ethyl acetate) to give 3-(cyclohexen-1-yl)-1-nitrobenzene (700 mg).

reactant | 3-nitrophenylboronic acid | 1.3 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | lithium chloride | 720 mg | [Cl-].[Li+]
reactant | sodium carbonate | 2M, 8 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethylene glycol dimethyl ether | 10 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 330 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(cyclohexen-1-yl)-1-nitrobenzene | 700 mg | C1(=CCCCC1)C=1C=C(C=CC1)[N+](=O)[O-] | C12H13NO2
